US06528510B1
(2-tert-Butyoxycarbonylamino-4-isopropyl-5-thiocyanato-phenyl)-carbamic acid tert-butyl ester
Boc protection was performed as described in Example CC using 4-isopropyl-5-thiocyanato-benzene-1,2-diamine (prepared in Example RR-1; 4.49 g, 21.7 mmol), di-t-butyl dicarbonate (11.3 g, 52.0 mmol), hexanes (150 mL), and EtOAc (50 mL). The crude product was purified by flash silica gel chromatography. MS(APCI): 406 (M−H).

reactant | 4-isopropyl-5-thiocyanato-benzene-1,2-diamine | 21.7 mmol, 4.49 g | C(C)(C)C=1C=C(C(=CC1SC#N)N)N | C10H13N3S
reactant | di-t-butyl dicarbonate | 52.0 mmol, 11.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (2-tert-Butyoxycarbonylamino-4-isopropyl-5-thiocyanato-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)SC#N)C(C)C)NC(=O)OC(C)(C)C)=O | C20H29N3O4S
